US08871796B2
Dess-Martin periodinane (415 mg, 0.977 mmol, 2.00 equiv) was added to a solution of N-[1-(3-{1-ethyl-5-[4-(1-hydroxyethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)-1-methylethyl]-2,2,2-trifluoroethanesulfonamide (250 mg, 0.489 mmol, 1 equiv) in dichloromethane (4.9 mL) at 22° C. The reaction mixture was stirred for 2 hours, and then saturated aqueous sodium thiosulfate solution (3 mL) and saturated aqueous sodium bicarbonate solution (3 mL) were added. The biphasic mixture was stirred for 15 minutes, then was partitioned between ethyl acetate and water. The organic layer was washed with saturated aqueous sodium chloride solution, and the washed solution was dried over sodium sulfate. The dried solution was filtered, and the filtrate was concentrated. The residue was purified by flash-column chromatography (hexanes, grading to 90% ethyl acetate-hexanes) to afford N-(1-{3-[5-(4-acetylphenoxy)-1-ethyl-1H-pyrazol-3-yl]phenyl}-1-methylethyl)-2,2,2-trifluoroethanesulfonamide (139 mg, 56%) Calcd (M+1)+: 510.2. Found: 510.1.

reactant | Dess-Martin periodinane | 0.977 mmol, 415 mg, 2.00 equiv | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | N-[1-(3-{1-ethyl-5-[4-(1-hydroxyethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)-1-methylethyl]-2,2,2-trifluoroethanesulfonamide | 0.489 mmol, 250 mg, 1 equiv | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C(C)O)C=1C=C(C=CC1)C(C)(C)NS(=O)(=O)CC(F)(F)F | C24H28F3N3O4S
reactant | sodium thiosulfate | 3 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 3 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 4.9 mL | ClCCl | CH2Cl2
product | N-(1-{3-[5-(4-acetylphenoxy)-1-ethyl-1H-pyrazol-3-yl]phenyl}-1-methylethyl)-2,2,2-trifluoroethanesulfonamide | 139 mg, 56% | C(C)(=O)C1=CC=C(OC2=CC(=NN2CC)C=2C=C(C=CC2)C(C)(C)NS(=O)(=O)CC(F)(F)F)C=C1 | C24H26F3N3O4S
